US07598384B2
2-Benzylamino-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one hydrochloride
2-Chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one (0.315 g, 1.5 mmol) and potassium carbonate (0.83 g, 6 mmol) were added to a solution of benzylamine (0.2 g, 1.8 mmol) in dry acetonitrile (4 ml). The mixture was stirred at reflux for 48 h. DMSO (3 ml) and sodium hydride (0.05 g) were added and heating was continued for additional 5 h. Water (10 ml) was added and the mixture was extracted with chloroform (2×10 ml). The extract was dried over sodium sulfate, filtered, and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (chloroform-methyl alcohol, 40:1), then treated by dry HCl in diethyl ether to give the title compound (0.1 g, 21%) as a colorless solid.

reactant | 2-Chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one | 1.5 mmol, 0.315 g | ClC1=NC=2CC(CC(C2C=C1)=O)(C)C | C11H12ClNO
reactant | potassium carbonate | 6 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylamine | 1.8 mmol, 0.2 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydride | 0.05 g | [H-].[Na+]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | Water | 10 ml | O | H2O
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 2-Benzylamino-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one hydrochloride | 0.1 g, 21% | Cl.C(C1=CC=CC=C1)NC1=NC=2CC(CC(C2C=C1)=O)(C)C | InChI=1S/C18H20N2O.ClH/c1-18(2)10-15-14(16(21)11-18)8-9-17(20-15)19-12-13-6-4-3-5-7-13;/h3-9H,10-12H2,1-2H3,(H,19,20);1H
